US08648066B2
6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl][1,3]thiazolo[5,4-b]pyridin-2-amine.
Prepared according to the method of example 5 by using N-(6-bromo[1,3]thiazolo[5,4-b]pyridin-2-yl)acetamide (Journal of Heterocyclic Chemistry (2003), 40, 261-268) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, d6-DMSO): 8.38 (m, 2H), 7.88 (brs, 2H), 7.83 (d, 1H), 7.72 (d, 1H), 7.76 (dd, 1H), 7.05 (d, 1H), 4.63 (s, 2H), 4.33 (m, 2H), 3.83 (m, 2H), 2.72 (m, 2H), 2.46 (s, 2H), 1.61 (m, 2H), 0.83 (s, 6H); MS (EI) for C25H26N6OS: 459 (MH+).

reactant | N-(6-bromo[1,3]thiazolo[5,4-b]pyridin-2-yl)acetamide | BrC=1C=C2C(=NC1)SC(=N2)NC(C)=O | C8H6BrN3OS
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl][1,3]thiazolo[5,4-b]pyridin-2-amine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)SC(=N1)N)C | C25H26N6OS
